US08912169B2
Step 4: Synthesis of ethyl 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetate
To a solution of ethyl 2-[4-[2-(methanesulfonamido)ethylamino]cyclohexyl]acetate (1.1 g, 4 mmol) in dichloromethane (12 mL) was added di-tert-butyl-dicarbonate (1.74 g, 8 mmol) followed by diisopropylethylamine (1.4 mL, 8 mmol). The resulting solution was stirred for 4 hours then diluted with dichloromethane, washed with water, dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (25 g silica; eluted with 5-50% ethyl acetate in hexanes) to give the title compound as an oil 6:1 trans:cis isomers.

reactant | ethyl 2-[4-[2-(methanesulfonamido)ethylamino]cyclohexyl]acetate | 4 mmol, 1.1 g | CS(=O)(=O)NCCNC1CCC(CC1)CC(=O)OCC | C13H26N2O4S
reactant | di-tert-butyl-dicarbonate | 8 mmol, 1.74 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 8 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | ethyl 2-[4-[tert-butoxycarbonyl-[2-(methanesulfonamido)ethyl]amino]cyclohexyl]acetate | C(C)(C)(C)OC(=O)N(C1CCC(CC1)CC(=O)OCC)CCNS(=O)(=O)C | C18H34N2O6S
